US07476756B2
2-(Methylamino)-2-oxoethyl decylcarbamate (compound No. °26)
A solution of 136 mg (0.65 mmol) of 2-(methylamino)-2-oxoethyl phenyl carbonate and of 133 mg (0.85 mmol) of decylamine in 2 ml of dichloromethane is stirred at ambient temperature for 18 h.

reactant | 2-(methylamino)-2-oxoethyl phenyl carbonate | 0.65 mmol, 136 mg | C(OCC(=O)NC)(OC1=CC=CC=C1)=O | C10H11NO4
reactant | decylamine | 0.85 mmol, 133 mg | C(CCCCCCCCC)N | C10H23N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2-(Methylamino)-2-oxoethyl decylcarbamate | C(CCCCCCCCC)NC(OCC(=O)NC)=O | C14H28N2O3
